US08580816B2
(a) tert-Butyl 2-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2-methylpropionate
With ice cooling, 72 mg of triphenylphosphine were dissolved in 1 ml of dry tetrahydrofuran, and 47 mg of diethyl azodicarboxylate were added. After 15 min, 80 mg of 4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenol were added, followed by 32 μl of triethylamine and 44 mg of tert-butyl alpha-hydroxyisobutyrate. The reaction mixture was then stirred at room temperature for 16 hours, and another 72 mg of triphenylphosphine and 47 mg of diethyl azodicarboxylate were added with ice cooling. After a further 4 h at room temperature, the reaction was concentrated and purified by preparative HPLC. This gave 60 mg (53%) of the title compound.

reactant | triphenylphosphine | 72 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 47 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenol | 80 mg | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)C=CC=C1 | C20H15FN2O3
reactant | tert-butyl alpha-hydroxyisobutyrate | 44 mg | OC(C(=O)OC(C)(C)C)(C)C | C8H16O3
reactant | triphenylphosphine | 72 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 47 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 32 μl | C(C)N(CC)CC | C6H15N
product | tert-Butyl 2-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2-methylpropionate | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(OC(C(=O)OC(C)(C)C)(C)C)C(=C3)C)C)C=CC=C1 | C28H29FN2O5
